US09382243B2
(2R,3 S,5R)-5-((6-chloro-5-(4-ethynylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxy-methyl)tetrahydro-2H-pyran-3-ol
6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-5-(4-((trimethylsilyl)ethynyl)phenyl)-1H-imidazo[4,5-b]pyridine (220 mg, 0.319 mmol) was dissolved in formic Acid (4.5 ml, 117 mmol) and sat. potassium hydrogen sulfate (0.5 ml, 0.319 mmol). The mixture was stirred at rt for 1 h, and then diluted with EtOAc. Then 3 M NaOH was added until a pH of pH 14 was reached. The mixture was stirred for 15 minutes at rt and then the layers were separated. The aqueous phase was extracted with EtOAc (×2). The combined organic extracts were washed with brine and dried over Na2SO4, filtered and concentrated. The resulting crude product was purified by column chromatography on Biotage™ 25 g column by eluting with 50% EtOAc in DCM to yield the title compound. LC-MS: m/e=400.32 (M+H)+ (Rt 1.71/4 min).

reactant | 6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-5-(4-((trimethylsilyl)ethynyl)phenyl)-1H-imidazo[4,5-b]pyridine | 0.319 mmol, 220 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C#C[Si](C)(C)C)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]1OC(OC[C@H]1OC2)C2=CC=CC=C2 | C36H44ClN3O5Si2
reactant | formic Acid | 117 mmol, 4.5 ml | C(=O)O | CH2O2
reactant | potassium hydrogen sulfate | 0.319 mmol, 0.5 ml | S(=O)(=O)(O)[O-].[K+]
reactant | NaOH | 3 M | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2R,3 S,5R)-5-((6-chloro-5-(4-ethynylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-2-(hydroxy-methyl)tetrahydro-2H-pyran-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C#C)N=C(N2)O[C@@H]2C[C@@H]([C@H](OC2)CO)O | C20H18ClN3O4
